US05574055
8.84 g (32.0 mmol) of t-butyl 4-(4-aminophenyl)-piperidine-1-carboxylate were dissolved in 150ml of methylene chloride and treated with 3.82 g (35.2 mmol) of ethyl chloroformate in the presence of 2.78 g (35.2 mmol) of pyridine. The reaction mixture was stirred at room temperature for 16 hours. Thereafter, it was washed with water and the organic phase was dried over sodium sulfate, filtered and evaporated. The residue (11.3 g) was chromatographed on 95 g of silica gel 60 with ether/n-hexane (4:6). After recrystallization from ether/n-hexane there were obtained 6.15 g of t-butyl 4-(4-ethoxycarbonylamino-phenyl)-piperidine-1-carboxylate. M.p.: 126°-128°.

reactant | t-butyl 4-(4-aminophenyl)-piperidine-1-carboxylate | 32.0 mmol, 8.84 g | NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | ethyl chloroformate | 35.2 mmol, 3.82 g | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 35.2 mmol, 2.78 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150ml | C(Cl)Cl | CH2Cl2
product | t-butyl 4-(4-ethoxycarbonylamino-phenyl)-piperidine-1-carboxylate | 6.15 g | C(C)OC(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O4
